### PR TITLE
Bayesian inverse (or posterior probability)

### PR DESCRIPTION
**Pull request by RemyDegenne**

### CODE REVIEW

File: TestingLowerBounds/MeasureCompProd.lean [hunk 1]
```diff
@@ -73,10 +94,22 @@ lemma kernel.snd_comp {γ δ : Type*} {_ : MeasurableSpace γ} {_ : MeasurableSp
...
+    μ ∘ₘ κ ∘ₘ η = μ ∘ₘ (η ∘ₖ κ) :=
+  Measure.bind_bind (kernel.measurable _) (kernel.measurable _)
+
+lemma Measure.comp_deterministic_eq_map {f : α → β} (hf : Measurable f) :
+    μ ∘ₘ kernel.deterministic f hf = μ.map f := by
+  ext s hs
+  rw [Measure.bind_apply hs (kernel.measurable _), Measure.map_apply hf hs]
+  simp only [kernel.deterministic_apply' hf _ hs]
+  classical
+  rw [lintegral_indicator_const_comp hf hs, one_mul]
```
Comment (LorenzoLuccioli) [inline TestingLowerBounds/MeasureCompProd.lean]:
```suggestion
  simp only [kernel.deterministic_apply' hf _ hs]
  rw [lintegral_indicator_const_comp hf hs, one_mul]
```

This seems to compile even without the `classical`.

Comment (RemyDegenne) [reply TestingLowerBounds/MeasureCompProd.lean]: Oh right. I added `classical` because I was using `indicator_apply` but then I changed the proof and that was not needed anymore.
Thanks!

File: TestingLowerBounds/MeasureCompProd.lean [hunk 2]
```diff
@@ -52,31 +85,44 @@ lemma kernel.compProd_prodMkLeft_eq_comp {γ : Type*} {_ : MeasurableSpace γ}
...
-  rw [snd_apply' _ _ hs, comp_apply', comp_apply' _ _ _ hs]
-  · simp_rw [snd_apply' _ _ hs]
-  · exact measurable_snd hs
+    fst (η ∘ₖ κ) = fst η ∘ₖ κ :=
+  kernel.map_comp  κ η measurable_fst
+
+lemma kernel.snd_comp {δ : Type*} {_ : MeasurableSpace δ}
+    (κ : kernel α β) [IsSFiniteKernel κ] (η : kernel β (γ × δ)) [IsSFiniteKernel η] :
+    snd (η ∘ₖ κ) = snd η ∘ₖ κ :=
+  kernel.map_comp  κ η measurable_snd
```
Comment (RemyDegenne) [inline TestingLowerBounds/MeasureCompProd.lean]:
```suggestion
    fst (η ∘ₖ κ) = fst η ∘ₖ κ :=
  kernel.map_comp κ η measurable_fst

lemma kernel.snd_comp {δ : Type*} {_ : MeasurableSpace δ}
    (κ : kernel α β) [IsSFiniteKernel κ] (η : kernel β (γ × δ)) [IsSFiniteKernel η] :
    snd (η ∘ₖ κ) = snd η ∘ₖ κ :=
  kernel.map_comp κ η measurable_snd
```
